US05283355
Preparation of 2,3,5-tribromo-6-isopropoxy-1,4-benzoquinone
Tetrabromobenzo-1,4-quinone (14.6 parts) was stirred in MEK prior to adding sodium hydrogen carbonate (5.5 parts) and stirring at room temperature. Aqueous propanol (50 parts, 1:1) was added and the reaction was monitored by HPLC until no starting material remained. The resulting solution (which contained 91% 2,3,5-tribromo-6-isopropoxy benzoquinone as judged by HPLC) was recrystallised from 60-80 petrol ether (136 ml) to yield a homogeneous crystalline product (6 parts). The 1H NMR of the title product in d6DMSO (delta) showed signals at 5.1 (m, 1H, CH(CH3)2); and 1.4 (d, 6H, CH(CH3)2).

reactant | Tetrabromobenzo-1,4-quinone | BrC1=C(C(C(=C(C1=O)Br)Br)=O)Br | C6Br4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | propanol | C(CC)O | C3H8O
solvent | MEK | CCC(=O)C | C4H8O
product | 2,3,5-tribromo-6-isopropoxy-1,4-benzoquinone | BrC=1C(C(=C(C(C1Br)=O)Br)OC(C)C)=O | C9H7Br3O3
